US05219868
A mixture of 10.0 g of ethyl p-aminobenzoate, 10.8 g of ethyl orthoformate, 10 ml of 1,3-dimethyl-2-imidazolidinone and 0.05 g of boron trifluoride ether complex was placed in a reactor equipped with Dean's stark tube and agitated at 140° C. for about 5 minutes, followed by further addition of 7.9 g of nitroiminoimidazolidine and agitation at 180° C. for 1 hour. The reaction mixture was poured into 200 ml of a saturated saline solution, to which 150 ml of ethyl acetate was added. The resultant crystals were collected by filtration and dried to give 12.3 g of 1-(4-ethoxy-carbonylphenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | ethyl p-aminobenzoate | 10.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethyl orthoformate | 10.8 g | C(OCC)([O-])[O-]
reactant | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | nitroiminoimidazolidine | 7.9 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-ethoxy-carbonylphenyliminomethyl)-2-nitroiminoimidazolidine | 12.3 g | C(C)OC1=CC(C(C=C1)N=CN1C(NCC1)=N[N+](=O)[O-])=C=O | C13H15N5O4
